US07825256B2
2-(2-Imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidine-3-carboxylic acid ethyl ester (300 mg, 0.996 mmol), formaldehyde, 37 wt % in H2O (500 μL), methanol (8 mL) and acetic acid (550 μL) were all combined in a reaction vessel and stirred for 30 mins. Next, sodium triacetoxyborohydride (530 mg, 2.49 mmol) was added and the solution was allowed to stir at room temperature for an additional 30 mins. After this period of time, the reaction mixture was concentrated under vacuum, dissolved in ethyl acetate (75 mL) and poured into ice (25 mL). The pH was adjusted to pH=8 with 1M NaOH. The organic layer was partitioned from the aqueous layer, dried over Na2SO4 and concentrated down to afford the crude product. The product was purified by Flash Chromatography (0-10% methanol/DCM gradient) to afford 130 mg (42%) 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-1-methyl-pyrrolidine-3-carboxylic acid ethyl ester. [M+H]+ 316.56.

reactant | 2-(2-Imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidine-3-carboxylic acid ethyl ester | 0.996 mmol, 300 mg | C(C)OC(=O)C1C(NCC1)C1=NC(=NC(=C1)C)N1C=NC=C1 | C15H19N5O2
reactant | formaldehyde | C=O | CH2O
reactant | methanol | 8 mL | CO | CH4O
reactant | sodium triacetoxyborohydride | 2.49 mmol, 530 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | H2O | 500 μL | O | H2O
solvent | acetic acid | 550 μL | C(C)(=O)O | C2H4O2
product | 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-1-methyl-pyrrolidine-3-carboxylic acid ethyl ester | 130 mg, 42% | C(C)OC(=O)C1C(N(CC1)C)C1=NC(=NC(=C1)C)N1C=NC=C1 | C16H21N5O2
